US06080750
2-Amino-6-chloro-4-[(1-hydroxymethyl-1-cyclobutyl)methoxy]pyrimidine (compound No. 95)
60% Sodium hydride (0.4 g, 0.01 mol) was suspended in dry dioxane (40 ml) and dihydroxymethylcyclobutane (1.16 g, 0.01 mol) dissolved in dry dioxane (40 ml) was dropwise added thereto. The mixture was stirred at 60-70° C. for 30 minutes, and 2-amino-4,6-dichloropyrimidine (1.64 g, 0.01 mol) was added. The mixture was refluxed for 3 hours, and filtrated. The solvent in the filtrate was distilled away under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=50:1) to give white crystals (1.24 g, 50.8%), m.p. 125-127° C. (acetone).

reactant | Sodium hydride | 0.01 mol, 0.4 g | [H-].[Na+]
reactant | dihydroxymethylcyclobutane | 0.01 mol, 1.16 g | OC(O)C1CCC1 | C5H10O2
reactant | 2-amino-4,6-dichloropyrimidine | 0.01 mol, 1.64 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | dioxane | 40 ml | O1CCOCC1 | C4H8O2
reactant | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 2-Amino-6-chloro-4-[(1-hydroxymethyl-1-cyclobutyl)methoxy]pyrimidine | 1.24 g, 50.8% | NC1=NC(=CC(=N1)OCC1(CCC1)CO)Cl | C10H14ClN3O2
